US05606037
Step 4: 1-propyl-3-methoxycarbonyl-3,4,5,10-tetrahydro-5,10-dioxo-1H-naphtho-[2,3-c]-pyran.
The 1-propyl-3-methoxycarbonyl-3,4,5,8-tetrahydro-5,8-dioxo-1H-benzo-[2,3-c]-pyran described in step 3 (76 mg, 0.288 mmol) was stirred with 1-acetoxyl-1,3-butadiene (136 μl, 1.152 mmol) at 45° C. for 20 hours. Solvent was evaporated and the crude product was chromatographed (toluene/ethyl acetate ~100/15, v/v) to give the titled compound (65 mg, 71.9%).

reactant | 1-propyl-3-methoxycarbonyl-3,4,5,8-tetrahydro-5,8-dioxo-1H-benzo-[2,3-c]-pyran | C(CC)C1OC(CC2=C1C(C=CC2=O)=O)C(=O)OC | C14H16O5
reactant | 1-acetoxyl-1,3-butadiene | 1.152 mmol, 136 μl | O(C(=O)C)C=CC=C | C6H8O2
product | 1-propyl-3-methoxycarbonyl-3,4,5,10-tetrahydro-5,10-dioxo-1H-naphtho-[2,3-c]-pyran | 65 mg, 71.9% | C(CC)C1OC(CC2=C1C(C1=CC=CC=C1C2=O)=O)C(=O)OC | C18H18O5
